US05321026
A solution of N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (5.5 g), in acetone (15 cc) is introduced, dropwise and with stirring during 30 minutes, into a solution of methyl bromide (9.5 g) in acetone (90 cc), and stirring is maintained for 16 hours at a temperature in the region of 20° C. The suspension obtained is filtered and the solid is washed with acetone (3×1 cc), drained and dried at 40° C. under reduced pressure (5 mm Hg; 0.7 kPa). This amorphous white solid (4.8 g) is dissolved in acetonitrile (12 cc) under reflux. The crystals formed after cooling are drained, washed with ice-cold acetonitrile (3×3 cc) and dried at 40° C. under reduced pressure (5 mm Hg; 0.7 kPa). 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium bromide, L series (2.05 g), is thereby obtained in the form of a crystalline white solid, m.p. 258° C.

reactant | N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3OS
reactant | methyl bromide | 9.5 g | CBr | CH3Br
solvent | acetone | 15 cc | CC(=O)C | C3H6O
solvent | acetone | 90 cc | CC(=O)C | C3H6O
product | 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium bromide | [Br-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | InChI=1S/C24H31N3OS.BrH/c1-4-13-25-24(28)19-11-12-23-21(16-19)26(20-9-5-6-10-22(20)29-23)18(2)17-27(3)14-7-8-15-27;/h5-6,9-12,16,18H,4,7-8,13-15,17H2,1-3H3;1H
